US06103708
2-Benzyl-4,5-dimethylthiophene
The title compound was prepared according to the procedure in Example 5, step 1 using 2,3-dimethylthiophene (5.00 g, 44.6 mmol), 2.5M BuLi/hexanes (17.9 mL, 44.6 mmol) and benzyl bromide (5.30 mL, 44.6 mmol) in THF (44.6 mL). Purification on Biotage KP-Sil eluting with 1% EtOAc/pet ether gave 6.96 g (77%) of the title compound as an oil. 1H NMR (DMSO-d6) δ 2.01 (s, 3 H), 2.21 (s, 3 H), 3.98 (s, 2 H), 6.58 (s, 1 H), 7.18-7.37 (m, 5 H).

reactant | 2,3-dimethylthiophene | 44.6 mmol, 5.00 g | CC=1SC=CC1C | C6H8S
reactant | benzyl bromide | 44.6 mmol, 5.30 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 44.6 mL | C1CCOC1 | C4H8O
product | 2-Benzyl-4,5-dimethylthiophene | 6.96 g, 77% | C(C1=CC=CC=C1)C=1SC(=C(C1)C)C | C13H14S
